US06080870
Step A: 5-(4-Cyanophenyloxy)imidazole
Sodium metal (1.10 g, 47.8 mmol) was dissolved in anhydrous methanol and 4-cyanophenol (5.70 g, 47.8 mmol) was added. The resultant solution was concentrated and dried under vacuum overnight. A mixture of this sodium salt and 4-cyanophenol (25 g, mp 110-113° C.) was heated to 125-130° C. and neat methyl N-(cyanomethyl)methanimidate (5.0 g, 51 mmol; Hosmane, R. S. et al, J. Org. Chem., 1212, 1984) was added dropwise over a period of 10 minutes under a slow stream of dry argon. The resultant mixture was stirred at 120° C. for 2 hours, cooled, and the reaction product partitioned between methylene chloride (500 mL) and aqueous sodium hydroxide (1 M, 500 mL). The aqueous layer was separated and extracted with methylene chloride (3×100 mL). The organic extracts were combined, washed with brine (100 mL), dried (K2CO3), and the solvent evaporated in vacuo. The residue was purified by chromatography (Silica gel, 3:7 acetone in CHCl3) to afford the title compound as a white powder.

reactant | Sodium | 47.8 mmol, 1.10 g | [Na] | Na
reactant | 4-cyanophenol | 47.8 mmol, 5.70 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | methyl N-(cyanomethyl)methanimidate | 51 mmol, 5.0 g | C(#N)CN=COC | C4H6N2O
solvent | methanol | CO | CH4O
product | 5-(4-Cyanophenyloxy)imidazole | C(#N)C1=CC=C(C=C1)OC1=CN=CN1 | C10H7N3O
